US07582773B2
Step 2: Synthesis of [4-(3-Benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester (0.139 g, 0.301 mmol) was reacted with 1N KOH (0.6 ml) in THF/MeOH (3 ml/2 ml) to give the product (0.075 g, 0.168 mmol, 56%) as a white solid, mp 179-181° C. 1H NMR (DMSO-d6) δ 3.63 (s, 3H), 4.05 (s, 2H), 4.69 (s, 2H), 6.97 (d, J=8.9 Hz, 2H), 7.08-7.12 (m, 3H), 7.19 (t, J=7.6 Hz, 2H), 7.43 (dd, J=1.5, 8.4 Hz, 1H), 7.46-7.58 (m, 9H); IR (solid) 3020, 2910, 1730, 1705, 1605, 1510, 1480, 1430, 1370, 1270, and 1230 cm−1; [ESI(+)], m/z 448 (M+H)+; Anal. Calcd. for C30H25NO3: C, 80.51; H, 5.63; N, 3.13; Found: C, 80.15; H, 5.62; N, 3.11.

reactant | [4-(3-benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | 0.301 mmol, 0.139 g | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H27NO3
reactant | KOH | 1N, 0.6 ml | [OH-].[K+]
solvent | THF MeOH | 3 ml | C1CCOC1.CO
product | [4-(3-Benzyl-1-methyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(OCC(=O)O)C=C1)C)C1=CC=CC=C1 | C30H25NO3
